US07557240B2
Preparation of Optically Active Methylsuccinic Acid Methyl Ester (s/c 110 000/1)
5.73 g (39.8 mmol) of 2-methylenesuccinic acid 4-monomethyl ester were introduced into 12 ml of methanol under protective gas in a 50 ml glass autoclave, and 0.12 ml of a solution of 6.6 mg of (RophosARhCOD)CF3SO3 (=precatalyst) in 3 ml of methanol was added (0.00036 mmol of precatalyst). Hydrogenation was then carried out at 60° C. under 5 bar of hydrogen. Conversion of the precursor was complete after 16 h. The enantiomeric excess of the product was 98%.

reactant | 2-methylenesuccinic acid 4-monomethyl ester | 39.8 mmol, 5.73 g | COC(CC(C(=O)O)=C)=O | C6H8O4
reactant | hydrogen | [H][H] | H2
reactant | methanol | 3 ml | CO | CH4O
reactant | methanol | 12 ml | CO | CH4O
product | Methylsuccinic Acid Methyl Ester | COC(C(CC(=O)O)C)=O | C6H10O4
